US05877174
In 7 ml of tetrahydrofuran was dissolved 0.70 g of diphenylmethyl [4-(3-aminopropyl)-2,3-dioxopiperazin-1-yl]acetate hydrochloride, and 0.36 g of 4-cyanobenzenesulfonyl chloride and then 0.58 ml of triethylamine were added thereto under ice-cooling. After stirring at room temperature for 30 minutes, the reaction mixture was added to a mixed solvent of 20 ml of ethyl acetate and 20 ml of water and the pH was adjusted to 3 with 2N hydrochloric acid. The organic layer was separated, washed with water and then a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform : methanol=20:1) to obtain 0.43 g of diphenylmethyl [4-[3-(4-cyanobenzenesulfonyl-amino)propyl]-2,3-dioxopiperazin-1-yl]acetate as a yellow foamy substance.

reactant | diphenylmethyl [4-(3-aminopropyl)-2,3-dioxopiperazin-1-yl]acetate hydrochloride | 0.70 g | Cl.NCCCN1C(C(N(CC1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O
reactant | 4-cyanobenzenesulfonyl chloride | 0.36 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | triethylamine | 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | diphenylmethyl [4-[3-(4-cyanobenzenesulfonyl-amino)propyl]-2,3-dioxopiperazin-1-yl]acetate | 0.43 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCCN1C(C(N(CC1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C29H28N4O6S
